US06809097B1
4-Chloro-7-methoxy-6-methoxycarbonylquinoline (1.4 g, 5.5 mmol) was dissolved in cyclohexanol (30 ml) and 4-chloro-2-fluoroaniline (0.786 g, 5.8 mmol) was added. The mixture was heated at 130° C. for 1 hour then at 160° C. for 3hours. The solvent was removed by evaporation and the residue was purified by flash chromatography eluting with methylene chloride/ethylacetate (100/0 increasing to 50/50). The solvent was removed by evaporation and the solid was triturated with ether/isohexanes. The solid was collected by filtration, washed with ether and dried under vacuum to give 4-(4-chloro-2-fluoroanilino)-7-methoxy-6-methoxycarbonylquinoline (570 mg, 28%).

reactant | 4-Chloro-7-methoxy-6-methoxycarbonylquinoline | 5.5 mmol, 1.4 g | ClC1=CC=NC2=CC(=C(C=C12)C(=O)OC)OC | C12H10ClNO3
reactant | 4-chloro-2-fluoroaniline | 5.8 mmol, 0.786 g | ClC1=CC(=C(N)C=C1)F | C6H5ClFN
solvent | cyclohexanol | 30 ml | C1(CCCCC1)O | C6H12O
product | 4-(4-chloro-2-fluoroanilino)-7-methoxy-6-methoxycarbonylquinoline | 570 mg, 28% | ClC1=CC(=C(NC2=CC=NC3=CC(=C(C=C23)C(=O)OC)OC)C=C1)F | C18H14ClFN2O3
